US07381726B2
Production of Form V of 1-[4-(5-cyanoindol-3-yl)butyl]-4-(2-carbamoyl-benzofuran-5-yl)-piperazine hydrochloride
10 g of 1-[4-(5-cyanoindol-3-yl)butyl]-4-(2-carbamoyl-benzofuran-5-yl)-piperazine dihydrochloride Form XII are dispersed in 1 l water. After stirring for 48 hours the crystals are recovered by filtration, and drying in vacuo to constant weight at room temperature leads to 1-[4-(5-cyanoindol-3-yl)butyl]-4-(2-carbamoyl-benzofuran-5-yl)-piperazine hydrochloride hydrate of Form V.

reactant | 1-[4-(5-cyanoindol-3-yl)butyl]-4-(2-carbamoyl-benzofuran-5-yl)-piperazine dihydrochloride | 10 g | Cl.Cl.C(#N)C=1C=C2C(=CNC2=CC1)CCCCN1CCN(CC1)C=1C=CC2=C(C=C(O2)C(N)=O)C1
solvent | water | 1 l | O | H2O
product | 1-[4-(5-cyanoindol-3-yl)butyl]-4-(2-carbamoyl-benzofuran-5-yl)-piperazine hydrochloride | Cl.C(#N)C=1C=C2C(=CNC2=CC1)CCCCN1CCN(CC1)C=1C=CC2=C(C=C(O2)C(N)=O)C1 | InChI=1S/C26H27N5O2.ClH/c27-16-18-4-6-23-22(13-18)19(17-29-23)3-1-2-8-30-9-11-31(12-10-30)21-5-7-24-20(14-21)15-25(33-24)26(28)32;/h4-7,13-15,17,29H,1-3,8-12H2,(H2,28,32);1H
